US09193720B2
A mixture of (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (0.514 g, 1.129 mmol), (4-(benzyloxy)phenyl)boronic acid (0.515 g, 2.257 mmol) and 2M Na2CO3 (1.693 ml, 3.39 mmol) in DMF (10 mL) was degassed for 10 min. Then, Pd(Ph3P)4 (0.065 g, 0.056 mmol) was added, degassed for 5 min and placed in a pre-heated oil bath at 110° C. After 2 h, cooled, diluted with ether (50 mL), washed with water (4×10 mL), brine (10 mL), dried (MgSO4), filtered, concentrated and purified by flash chromatography using 10, 20 and 30% EtOAc/Hex to afford (S)-ethyl 2-(5-(4-(benzyloxy)phenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (0.4345 g, 0.778 mmol, 68.9% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ 7.48-7.51 (m, 2H), 7.40-7.45 (m, 2H), 7.34-7.38 (m, 1H), 7.16-7.20 (m, 1H), 7.04-7.10 (m, 3H), 6.09 (s, 1H), 5.13-5.20 (m, 2H), 4.26 (qd, J=7.1, 10.7 Hz, 1H), 4.17 (qd, J=7.1, 10.7 Hz, 1H), 3.18 (d, J=11.8 Hz, 1H), 2.87 (t, J=11.8 Hz, 1H), 2.27 (d, J=11.8 Hz, 1H), 2.21 (s, 3H), 2.05 (t, J=11.7 Hz, 1H), 1.56 (dt, J=4.6, 12.9 Hz, 2H), 1.32-1.41 (m, 1H), 1.26 (t, J=7.1 Hz, 3H), 1.21 (s, 9H), 1.18 (br. s., 1H), 1.05-1.11 (m, 1H), 0.91 (s, 3H), 0.64 (s, 3H). LCMS (M+H) 559.5.

reactant | (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 1.129 mmol, 0.514 g | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OCC)OC(C)(C)C)N1CCC(CC1)(C)C | C22H35BrN2O3
reactant | (4-(benzyloxy)phenyl)boronic acid | 2.257 mmol, 0.515 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)B(O)O | C13H13BO3
reactant | Na2CO3 | 3.39 mmol, 2M, 1.693 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd(Ph3P)4 | 0.056 mmol, 0.065 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-ethyl 2-(5-(4-(benzyloxy)phenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 0.778 mmol, 0.4345 g, 68.9% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C(=C(C(=NC1C)C)[C@@H](C(=O)OCC)OC(C)(C)C)N1CCC(CC1)(C)C | C35H46N2O4
